US04261996
Methyl 2-amino-3-(tetrahydro-2-thienyl)benzoate.
A solution of methyl anthranilate (75.5 g; 0.5 mole) in CH2Cl2 (1.0 l) is cooled to -70° and a solution of tert-butyl hypochlorite (54 g; 0.5 mole) in CH2Cl2 (150 ml) is added slowly keeping the temperature at -70°. The resultant N-chloroanthranilate solution is stirred for 1.0 hr and then tetrahydrothiophene (110 ml) is added at such a rate as to maintain the exotherm to less than 10°. The dark solution is stirred at -70° for 2.0 hr, triethylamine (125 ml) is added dropwise, and the solution is stirred for 24 hrs. The solvents are removed and the residue is diluted with CH2Cl2, washed with (1 N) NaOH solution, water and dried. Removal of solvents gives an oil. Unreacted methyl anthranilate is removed under reduced pressure (b.p. 95°-100°/0.35 mm) at bath temperature at 150°. The residue is dissolved in CH 2 Cl2 and partially chromatographed through silica gel. The solid residue is recrystallized from methanol. Yield 27.0 g; mp 75°-9°.

reactant | methyl anthranilate | 0.5 mole, 75.5 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | tert-butyl hypochlorite | 0.5 mole, 54 g | ClOC(C)(C)C | C4H9ClO
reactant | N-chloroanthranilate | ClNC=1C(C(=O)[O-])=CC=CC1
reactant | tetrahydrothiophene | 110 ml | S1CCCC1 | C4H8S
solvent | CH2Cl2 | 1.0 l | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 125 ml | C(C)N(CC)CC | C6H15N
product | Methyl 2-amino-3-(tetrahydro-2-thienyl)benzoate | NC1=C(C(=O)OC)C=CC=C1C1SCCC1 | C12H15NO2S
